US07405300B2
2-chloro-1-(4-dimethylaminophenyl)-1H-indole-3-carboxaldehyde is reacted with piperazine as described in Step 2 of Example 29 to afford 1-(4-dimethylaminophenyl)-2-piperazin-1-yl-1H-indole-3-carboxaldehyde (51% yield). ESI/MS 349 (M+H); RT 2.44 min; NMR (CDCl3) 10.24 (1H, s); 8.25 (1H, d, J=9 Hz); 7.20 (3H, m); 7.10 (1H, m); 6.97 (1H, d, J=9 Hz); 6.83 (2H, d); 3.29 (4H, m); 3.05 (6H, s); 2.82 (4H, m).

reactant | 2-chloro-1-(4-dimethylaminophenyl)-1H-indole-3-carboxaldehyde | ClC=1N(C2=CC=CC=C2C1C=O)C1=CC=C(C=C1)N(C)C | C17H15ClN2O
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-(4-dimethylaminophenyl)-2-piperazin-1-yl-1H-indole-3-carboxaldehyde | 51% yield | CN(C1=CC=C(C=C1)N1C(=C(C2=CC=CC=C12)C=O)N1CCNCC1)C | C21H24N4O
